US06329380B1
Step C: 1-Benzyloxycarbonyl-3-azidomethylpiperidine
Dissolved 1-benzyloxycarbonyl-3-methanesulfonyloxymethyl-piperidine (5.24 mmol, 1 eq) in DMF (50 mL). Added sodium azide (1.7 g, 26.2 mmol, 5 eq). Warmed the mixture to 60° C. and let stir overnight. Removed the DMF under reduced pressure. Diluted the residue with ethyl acetate and washed with water and then brine. Dried the organic layer over anhydrous Na2SO4, filtered and concentrated giving 1.27 g. crude product.

reactant | 1-benzyloxycarbonyl-3-methanesulfonyloxymethyl-piperidine | 5.24 mmol, 1 eq | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)COS(=O)(=O)C | C15H21NO5S
reactant | sodium azide | 26.2 mmol, 1.7 g, 5 eq | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 1-Benzyloxycarbonyl-3-azidomethylpiperidine | C(C1=CC=CC=C1)OC(=O)N1CC(CCC1)CN=[N+]=[N-] | C14H18N4O2
